US06660872B1
d) N-Methyl-2-(2-hydroxyphenyl)-2-methoxyimino-acetamide (Example I-1d)
0.5 g (0.0013 mol) of methyl 2-(2-hydroxyphenyl)-2-methoxyimino-acetate (in particular Example II-Id from process step 4; HPLC: 54.4% methyl Z-2-(2-hydroxyphenyl)-2-methoxyimino-acetate of log p=2.39 is disolved in 6 ml of tetrahydrofuran and cooled to 10° C. With cooling, methylamine is introduced. After about 30 minutes, 2 ml of methanol are added, the solution is saturated with methylamine and the mixture is allowed to stand at 10° C. overnight. The solvents are distilled off under reduced pressure and the residue is mixed with a mixture of 5 ml of 2 N hydrochloric acid and 5 ml of saturated sodium chloride solution and extracted three times with 10 ml of ethyl acetate each time. The organic phase is dried over sodium sulphate and the solvent is distilled off under reduced pressure, giving 0.6 g of crude product. This crude product is chromatographed with a mixture of 7 parts of n-hexane and 3 parts of acetone on silica gel. This gives 0.4 g of product which, according to HPLC, contains 99.2% N-methyl-Z-2-(2-hydroxyphenyl)-2-methoxyiminoacetamide of log p=1.29.

reactant | methyl 2-(2-hydroxyphenyl)-2-methoxyimino-acetate | 0.0013 mol, 0.5 g | OC1=C(C=CC=C1)C(C(=O)OC)=NOC | C10H11NO4
reactant | methyl Z-2-(2-hydroxyphenyl)-2-methoxyimino-acetate | OC1=C(C=CC=C1)/C(/C(=O)OC)=N/OC | C10H11NO4
reactant | methylamine | CN | CH5N
reactant | methanol | 2 ml | CO | CH4O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | N-Methyl-2-(2-hydroxyphenyl)-2-methoxyimino-acetamide | 0.6 g | CNC(C(=NOC)C1=C(C=CC=C1)O)=O | C10H12N2O3
